US08034953B2
Step 1. Phenyl {4-[4-(3-bromo-4-fluorophenyl)-5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl]-1,2,5-oxadiazol-3-yl}carbamate
This compound was prepared according to the procedure of Example 35, Step 2, using 3-(4-amino-1,2,5-oxadiazol-3-yl)-4-(3-bromo-4-fluorophenyl)-1,2,4-oxadiazol-5(4H)-one and phenyl chloroformate as the starting materials. LCMS for C17H10BrFN5O5 (M+H)+: m/z=461.9, 463.7.

reactant | 3-(4-amino-1,2,5-oxadiazol-3-yl)-4-(3-bromo-4-fluorophenyl)-1,2,4-oxadiazol-5(4H)-one | NC=1C(=NON1)C1=NOC(N1C1=CC(=C(C=C1)F)Br)=O | C10H5BrFN5O3
reactant | phenyl chloroformate | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
product | Phenyl {4-[4-(3-bromo-4-fluorophenyl)-5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl]-1,2,5-oxadiazol-3-yl}carbamate | BrC=1C=C(C=CC1F)N1C(=NOC1=O)C=1C(=NON1)NC(OC1=CC=CC=C1)=O | C17H9BrFN5O5
